US09382231B2
Step 4: 4-[3-(Cyanomethylene)azetidin-1-yl]-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide
Diethyl cyanomethylphosphonate (1.95 mL, 11.8 mmol) was added drop-wise to a cooled (ice bath) solution of 1.0 M potassium tert-butoxide in THF (11.8 mL, 11.8 mmol) which was diluted with tetrahydrofuran (12 mL). The bath was removed and the reaction was warmed to room temperature, and stirred for 90 min. The reaction solution was cooled with an ice bath again. The above prepared solution was then added over 12 min to a cooled (ice-bath) solution of 2,5-difluoro-4-(3-oxoazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide (4.00 g, 12.4 mmol) in tetrahydrofuran (50 mL). The reaction mixture was stirred for 30 min. The ice bath was removed, and the reaction was stirred at room temperature overnight, then quenched by the addition of 20% brine (75 mL) and ethyl acetate (75 mL). The organic layer was separated. The aqueous layer was extracted with ethyl acetate (50 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0% to 30%) to yield the desired product (2.6 g). 1H NMR (400 MHz, DMSO-d6) δ 8.59-8.37 (m, 1H), 7.33 (dd, J=12.5, 6.4 Hz, 1H), 6.59 (dd, J=12.0, 7.4 Hz, 1H), 5.88 (m, 1H), 4.94-4.75 (m, 4H), 4.76 (m, 1H), 1.31 (d, J=7.1 Hz, 3H) ppm. LCMS cacld. for C15H13F5N3O (M+1)+: m/z=346.1. Found: 346.1.

reactant | Diethyl cyanomethylphosphonate | 11.8 mmol, 1.95 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | 2,5-difluoro-4-(3-oxoazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | 12.4 mmol, 4.00 g | FC1=C(C(=O)N[C@H](C(F)(F)F)C)C=C(C(=C1)N1CC(C1)=O)F | C13H11F5N2O2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 11.8 mmol, 11.8 mL | C1CCOC1 | C4H8O
product | 4-[3-(Cyanomethylene)azetidin-1-yl]-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | 2.6 g | C(#N)C=C1CN(C1)C1=CC(=C(C(=O)N[C@H](C(F)(F)F)C)C=C1F)F | C15H12F5N3O
